US04824859
N-(4,5-dihydro-1-phenyl-1H-pyrazol-3-yl)-N-(4-methoxyphenyl)acetamide
1.7M n-butyl lithium in hexane (7.0 ml) was added dropwise to a solution of 4,5-dihydro-N-(4-methoxyphenyl)-1-phenyl-1H-pyrazol-3-amine (2.67 g) in tetrahydrofuran (150 ml) at -25° under N2. After 40 minutes ethyl acetate was added and the solution was allowed to reach room temperature. After being stirred for 2 hours, the solution was evaporated to dryness and the residue chromatographed on silica gel eluting with ethyl acetate in dichloromethane to give an oil which crystallised on trituration with ether. The solid was recrystallised from ether and hexane to give the title compound (0.82 g) mp 83°-5° (dec).

reactant | n-butyl lithium | 1.7M | C(CCC)[Li]
reactant | 4,5-dihydro-N-(4-methoxyphenyl)-1-phenyl-1H-pyrazol-3-amine | 2.67 g | COC1=CC=C(C=C1)NC1=NN(CC1)C1=CC=CC=C1 | C16H17N3O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | 7.0 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | N-(4,5-dihydro-1-phenyl-1H-pyrazol-3-yl)-N-(4-methoxyphenyl)acetamide | 0.82 g | C1(=CC=CC=C1)N1N=C(CC1)N(C(C)=O)C1=CC=C(C=C1)OC | C18H19N3O2
